US07067540B2
1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-methylpyridin-2(1H)-one
To a degassed solution of 1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-iodopyridin-2(1H)-one (0.804 g, .7 mmol) in DMF (10 mL) and LiCl (0.25 g, .9 mmol) was added tetramethyltin (0.49 mL, 3.54 mmol) followed by bistriphenylphosphine-palladium chloride catalyst (0.124 g, 0.177 mmol). The reaction mixture was heated in an oil bath (85°-90° C.) under nitrogen for 3 hours. The solvent was concentrated and the residue was diluted with ethyl acetate and washed with water. The organic extracts were dried over anhydrous Na2SO4 and concentrated to dryness. The residue was purified by flash column chromatography (20% ethyl acetate in hexane). The appropriate fractions were concentrated. 1H-NMR (CD3OD, 400 MHz) δ 7.59 (d, 1H, J=7.6 Hz), 7.46 (m, 2H), 7.34 (m, 1H), 7.10 (m, 4H), 6.46 (d, 1H, J=7.6 Hz), 5.17 (s, 2H), 5.15 (s, 2H), 1.99 (s, 3H); ES-HRMS m/z 342.1314 (M+H calculated for C20H18NO2F2 requires 342.1300).

reactant | 1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-iodopyridin-2(1H)-one | .7 mmol, 0.804 g | FC=1C=C(CN2C(C(=C(C=C2)OCC2=CC=C(C=C2)F)I)=O)C=CC1 | C19H14F2INO2
reactant | LiCl | .9 mmol, 0.25 g | [Li+].[Cl-]
reactant | tetramethyltin | 3.54 mmol, 0.49 mL | C[Sn](C)(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-fluorobenzyl)-4-[(4-fluorobenzyl)oxy]-3-methylpyridin-2(1H)-one | FC=1C=C(CN2C(C(=C(C=C2)OCC2=CC=C(C=C2)F)C)=O)C=CC1 | C20H17F2NO2
